Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Sulfa (Sulfonamides) / Lisinopril / Reglan
 
Attending: ___.
 
Chief Complaint:
C. diff colitis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ with CLL and DM who presents with recurrent C 
diff colitis. Pt was recently hospitalized ___ to ___ for C 
diff diarrhea after antibiotic treatment for pneumonia. Pt was 
started on PO vanco and flagyl for 2 weeks. Antibiotic regimen 
was completed  2 wks ago. About one week ago, pt develped 
recurrent diarrhea, which worsened over the last 5 days. Stool 
are brown and watery without overt blood. Took an immodium 
today. Patient reports severe cramps with each bowel movement. 
ROS + for nausea, emesis x2, sweats and fatigue. Denies fevers, 
chills, chest pain, PND, SOB, headache, dizziness, urinary 
frequency, dysuria, skin rashes, or ankle edema.
.
In the ED, vitals were 97.8 80 136/61 18 100% RA. She was given 
1 L NS. CT abdomen showed diffuse pancolitis. Repeat stool 
studies sent. Started on IV flagyl and PO vanc. No stool on 
rectal for guiac testing.

 
Past Medical History:
1. CLL (___) - Initial asymptomatic leukocytosis (18.6) in 
___ and ___ (22, 60% lymphocytes). Immunophenotyping of 
peripheral blood consistent with CLL (+ for CD5, CD19-dim, CD20 
and CD23 and - for CD10 and FCM7).  No significant 
lymphadenopathy on CT chest/abdomen. Currently no medical 
treatment indicated. 
2. Hypertension
3. Hyperlipidemia
4. Cataract surgery
5. CAD s/p CABG in ___
6. Sciatica s/p L4-L5 laminectomy
7. Cholecystitis s/p gallbladder removal (___)
8. Appendicitis s/p appendectomy (___)
9. "gynecologic mass" s/p uterine hysterectomy, ovaries still in 

tact (___)
10. Osteoarthritis s/p bilateral total knee replacement.
11. Community Acquired Pneumonia (___) c/b Cdiff 
(___)
12. Diet controlled diabetes: HbA1c 6.3

 
Social History:
___
Family History:
Notable for a mother who died of lung cancer. Father had died of 
an MI.
 
Physical Exam:
Vitals: 98.5  138/61  78  20  99% on RA
Gen: calm, cooperative
HEENT: EOMI, R pupil constricts 5 to 2, L pupil constricts 4 to 
2, mucous membranes dry, OP clear
Neck: supple, no LAD, JVP 5 cm
Pulm: CTAB, no wheezes/crackes/rhonchi. good inspiration. 
resonant to percussion.
CV: RRR, normal S1 and S2, no rub/murmurs/gallops
Abd: obese, + BS, soft, tender to deep palpation, no 
hepatosplenomegaly
Extrem: WWP, ___ and DP 2+ bilat, no edema
Neuro: AAOx3

 
Pertinent Results:
Labs on admission:
___ 08:05PM   GLUCOSE-114* UREA N-13 CREAT-0.7 SODIUM-126* 
POTASSIUM-3.6 CHLORIDE-95* TOTAL CO2-19* ANION GAP-16
___ 08:05PM   CALCIUM-8.0* PHOSPHATE-2.8 MAGNESIUM-1.8
___ 11:15AM   WBC-47.4*# RBC-4.65 HGB-13.6 HCT-39.1 MCV-84 
MCH-29.3 MCHC-34.9 RDW-14.2
___ 11:15AM   NEUTS-60.8 ___ MONOS-3.9 EOS-0.1 
BASOS-2.5*
___ 01:00PM URINE  COLOR-Amber APPEAR-Clear SP ___
___ 01:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-100 KETONE-15 BILIRUBIN-SM UROBILNGN-1 PH-5.0 LEUK-TR
___ 01:00PM URINE  ___ BACTERIA-RARE 
YEAST-NONE ___ 01:00PM URINE  ___ 01:00PM URINE  MUCOUS-MANY
.
Imaging:
CXR (___) No acute intrathoracic process
CT abdomen (___) Pancolitis, likely secondary to C. difficile. 
Diverticulosis without evidence of diverticulitis. 
KUB (___) No megacolon, no obstruction. No significant change 
compared to ___ CT.
.
Microbiology:
___ stool -- FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA. 
___ blood cultures neg x2
___ NEGATIVE FOR CMV IgG ANTIBODY BY EIA, NEGATIVE FOR CMV 
IgM ANTIBODY BY EIA. 
.
Labs on discharge:
___ 06:00AM BLOOD WBC-68.8* RBC-3.83* Hgb-11.6* Hct-33.0* 
MCV-86 MCH-30.4 MCHC-35.3* RDW-15.9* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD ___ PTT-28.7 ___
___ 06:00AM BLOOD Glucose-93 UreaN-10 Creat-0.6 Na-131* 
K-4.0 Cl-103 HCO3-20* AnGap-12
___ 06:00AM BLOOD Calcium-7.3* Phos-3.2 Mg-2.0
___ 10:20AM BLOOD IgG-601* IgA-178 IgM-___. Recurrent C. diff diarrhea:
Pt was recently hospitalized in ___ for C. diff infection 
and was treated with 2 weeks of PO vanc and PO flagyl. Pt found 
to have recurrent C. diff infection this admission w/ stool 
positive for C. diff toxin by EIA. Abdominal CT showed 
pancolitis, and WBC was elevated to 60's-70's this admission, up 
from prior baseline of 30. Pt was febrile on the day of 
admission. CXR was negative for pneumonia or other acute 
pathology. Pt defervesced and was afebrile for the rest of the 
hospital stay. Diarrhea was treated with PO vanco and IV flagyl. 
KUB ___ showed no significant change from admission CT, no 
megacolon, and no obstruction. Diarrhea gradually slowed w/ abx. 
Pt's IgG level on this admission was found to be 601, down from 
731 ___. Pt received a single dose of IVIg 400mg/kg prior to 
discharge. She was sent home with a vancomycin taper as 
recommended by the infectious diseases team.
.
2. Chronic lymphocytic leukemia:
Pt is currently not receiving treatment for CLL. WBC was 
elevated tp 60's-70's this admission due to C. diff infection in 
combination w/ known h/o CLL. Tests for HIV, HBC, HCV, and CMV 
were sent in case chemotherapy needed for treatment of CLL in 
the future. Pt was found to be HIV neg, Hep B surface antigen 
neg, borderline positive for Hep B surface Ab, Hep B core 
antibody neg, and HCV antibody neg. 
.
3. Diabetes:
Pt has had diet controlled diabetes with HbA1c less than 7.0. Pt 
had elevated blood glucose levels and ketonuria early in her 
hospital course. Ketonuria was likely due to poor PO intake, as 
she was not able to eat due to her diarrhea and nausea. 
Nutrition was consulted and provided supplements during the 
hospitalization.
During the hospital stay, patient had mildly elevated glucose 
levels, and was placed on an insulin sliding scale for part of 
the admission. This was discontinued after pt's glucose levels 
remained only mildly elevated.  
.
4. Hyponatremia:
Pt had hypovolemic hyponatremia, secondary to volume depletion 
from constant diarrhea. Urine lytes showed appropriate ADH 
secretion with high urine Osm and low Urine Na ___. When 
rechecked ___ urine Osm remained high, but pt also w/ urine 
Na 74. This elevated urine Na may be related to dietary intake. 
Pt was volume repleted with IVF, and hyponatremia improved w/ 
increased PO intake.
.
5. HTN: 
Blood pressure has been well controlled with her home amlodipine 
and atenolol regimen. BP meds were continued while pt in the 
hospital.
.
6. CAD: Stable. Home meds of ASA and simvastatin were continued.
.
7. Code: FULL
 
Medications on Admission:
ASA 325 mg PO daily
AMLODIPINE 5 mg PO daily
ATENOLOL 50 mg PO daily
CALTRATE/VITAMIN D 600 PO BID
CITALOPRAM 10 mg PO daily
OMEPRAZOLE 20 mg PO BID
SIMVASTATIN 40 mg PO daily
ATIVAN 1 mg PO Q8H PRN anxiety
HYDROMORPHONE 2 mg PO Q4H PRN pain
IBUPROFEN 200 mg PO Q6H PRN apin
MECLIZINE HCL 25 mg PO daily PRN vertigo.
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for difficulty sleeping.
Disp:*30 Tablet(s)* Refills:*0*
5. Citalopram 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
6. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
8. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. Vancomycin 125 mg Capsule Sig: per taper Capsule PO per 
taper: Take per discharge instructions.
FOR MAILORDER.
Disp:*251 Capsule(s)* Refills:*0*
10. Vancomycin 250 mg Capsule Sig: Two (2) Capsule PO every six 
(6) hours for 4 days.
Disp:*32 Capsule(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Clostridium difficile colitis
Hyponatremia
Chronic lymphocytic leukemia

Secondary:
hypertension
coronary artery disease
diabetes mellitus

 
Discharge Condition:
hemodynamically stable and afebrile with decreased volume of 
diarrhea. tolerating PO diet 

 
Discharge Instructions:
Your came into the hospital with diarrhea and were found to have 
a recurrence of Clostridium difficile ("C diff") colitis. You 
were treated with antibiotics and your symptoms improved. 
However you will need to complete an extended course of the oral 
vancomycin as directed.
.
Please resume your home medications upon discharge. Take all 
medications as directed. The following antibiotic was added.
1. Vancomycin 250mg capsules (prescription)
-Please take 2 capsules every 6 hours for the next four days.
2. Vancomycin 125mg capsules (mail order)
-Upon completing your four-day course of the 250mg capsules as 
directed, please take 4 capsules every 6 hours through ___. 
-Then taken 4 capsules three times a day for 7 days.
-Then take 2 capsules three times a day for 7 days.
-Then take 1 capsule three times a day for 7 days.
-Then take 1 capsule two times a day for 7 days.
-Then take 1 capsule daily for 7 days.
-Then take 1 capsule every other day for one week.
.
It is important that you stay well hydrated at home. Please try 
to drink and eat regularly to avoid dehydration.
.
Please call you doctor or return to the emergency department if 
you develop a fever, have worsening diarrhea, or increased 
abdominal pain. Please also call your doctor if you have chest 
pain, shortness of breath, or any other symptoms concerning to 
you.
 
Followup Instructions:
___